US08975417B2
4-(4-chlorophenyl)-2,3-dimethyl-5-(1-methyl-6-oxo-1,6-dihydropyridazin-3-yl)-4,5-dihydropyrrolo[3,4-c]pyrazol-6(2H)-one
The title compound was prepared in analogy to the procedure described in Example 1 using 4-((4-chlorophenyl)(1-methyl-6-oxo-1,6-dihydropyridazin-3-ylamino)methyl)-1,5-dimethyl-1H-pyrazole-3-carboxylic acid Step 32.3). tR: 3.94 min (HPLC 1); tR: 0.87 min (LC-MS 2); ESI-MS: 370 [M+H]+ (LC-MS 2); Rf=0.56 (CH2Cl2/MeOH 9:1); 1H NMR (400 MHz, DMSO-d6) δ ppm 2.05 (s, 3H) 3.44 (s, 3H) 3.84 (s, 3H) 6.29 (s, 1H) 6.96 (d, J=9.8 Hz, 1H) 7.29-7.41 (m, 4H) 8.21 (d, J=9.8 Hz, 1H).

reactant | 4-((4-chlorophenyl)(1-methyl-6-oxo-1,6-dihydropyridazin-3-ylamino)methyl)-1,5-dimethyl-1H-pyrazole-3-carboxylic acid | ClC1=CC=C(C=C1)C(C=1C(=NN(C1C)C)C(=O)O)NC1=NN(C(C=C1)=O)C | C18H18ClN5O3
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 4-(4-chlorophenyl)-2,3-dimethyl-5-(1-methyl-6-oxo-1,6-dihydropyridazin-3-yl)-4,5-dihydropyrrolo[3,4-c]pyrazol-6(2H)-one | ClC1=CC=C(C=C1)C1N(C(C2=NN(C(=C21)C)C)=O)C2=NN(C(C=C2)=O)C | C18H16ClN5O2
